US04742060
Sodium hydride (0.48 g) was added to a solution of 2,2,2-trifluoroethanol (2.4 g) in toluene (30 ml) was added, and the mixture was stirred until the generation of hydrogen ceased. As a result, 2,2,2-trifluoroethanol sodium salt was prepared. To the product were added 1-(2-chloro-5-pyridylmethyl)-2-(nitroimino)imidazolidine (5.1 g) synthesized by the method of Example 3 and a catalytic amount of 4-dimethylaminopyridine. The mixture was heated at 80° C. for 10 hours with stirring. After cooling the reaction mixture, the precipitated crystals were collected by filtration, washed with water and ether and then purified by silica gel chromatography to give 1-[2-(2,2,2-trifluoroethoxy)-5-pyridylmethyl]-2-(nitroimino)imidazolidine (1.5 g).

reactant | Sodium hydride | 0.48 g | [H-].[Na+]
reactant | 2,2,2-trifluoroethanol | 2.4 g | FC(CO)(F)F | C2H3F3O
reactant | hydrogen | [H][H] | H2
reactant | 2,2,2-trifluoroethanol sodium salt | [Na].FC(CO)(F)F
reactant | 1-(2-chloro-5-pyridylmethyl)-2-(nitroimino)imidazolidine | 5.1 g | ClC1=NC=C(C=C1)CN1C(NCC1)=N[N+](=O)[O-] | C9H10ClN5O2
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-[2-(2,2,2-trifluoroethoxy)-5-pyridylmethyl]-2-(nitroimino)imidazolidine | 1.5 g | FC(COC1=NC=C(C=C1)CN1C(NCC1)=N[N+](=O)[O-])(F)F | C11H12F3N5O3
